US05304560
A mixture of 2-(3-ethoxycarbonylpropylamino)benzamide (1.95 g) and N,N'-carbonyldiimidazole (2.52 g) in dioxane (20 ml) was heated to 150° C. After 30 minutes, the mixture was cooled below 80° C., and diluted with ethanol to give crude crystals. Collected crystals were recrystallized from ethanol to give 1-(3-ethoxycarbonylpropyl)-2,4(1H,3H)-quinazolinedione (1.53 g) as a crystal.

reactant | 2-(3-ethoxycarbonylpropylamino)benzamide | 1.95 g | C(C)OC(=O)CCCNC1=C(C(=O)N)C=CC=C1 | C13H18N2O3
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-ethoxycarbonylpropyl)-2,4(1H,3H)-quinazolinedione | 1.53 g | C(C)OC(=O)CCCN1C(NC(C2=CC=CC=C12)=O)=O | C14H16N2O4
